US05703187
Dilithium ((tetramethylcyclopentadienyl)dimethylsilyl)-(2-methoxyphenyl)amide.
To 1.4 g (4.6 mmol) ((tetramethylcyclopentadienyl) dimethylsilyl)(2-methoxyphenyl)amine in diethyl ether was added dropwise 3.9 mL of 2.5M butyl lithium (9.8 mmol) in hexane solvent. A white precipitate formed. Pentane was added to the mixture. The slurry was filtered and the solids washed with pentane.

reactant | ((tetramethylcyclopentadienyl) dimethylsilyl)(2-methoxyphenyl)amine | 4.6 mmol, 1.4 g | CC=1C(=C(C(C1)(C)[Si](C)(C)NC1=C(C=CC=C1)OC)C)C | C18H27NOSi
reactant | butyl lithium | 9.8 mmol, 2.5M, 3.9 mL | C(CCC)[Li]
reactant | Pentane | CCCCC | C5H12
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | Dilithium ((tetramethylcyclopentadienyl)dimethylsilyl)-(2-methoxyphenyl)amide | CC=1C(=C(C(C1)(C)[Si](C)(C)[N-]C1=C(C=CC=C1)OC)C)C.[Li+].[Li+].CC=1C(=C(C(C1)(C)[Si](C)(C)[N-]C1=C(C=CC=C1)OC)C)C | InChI=1S/2C18H26NOSi.2Li/c2*1-13-12-18(4,15(3)14(13)2)21(6,7)19-16-10-8-9-11-17(16)20-5;;/h2*8-12H,1-7H3;;/q2*-1;2*+1
